US06914074B2
1-Chloro-6-(4-hydroxy-2-methylphenyl)-2-naphthol
The title compound was prepared by reacting 1-chloro-6-(4-methoxy-2-methylphenyl)-2-naphthol (400 mg, 1.41 mmol) with boron tribromide (4.0 mL of 1.0 M solution in CH2Cl2, 4.0 mmol) according to method D to yield 310 mg (77%) of a yellowish solid: mp 216-218° C.; 1H NMR (DMDO-d6): δ 2.20 (1H, s), 6.68 (1H, dd, J=8.19 Hz, J=2.42 Hz), 6.72 (1H, d, J=2.13 Hz), 7.10 (1H, d, J=8.16 Hz), 7.29 (1H, d, J=8.89 Hz), 7.29 (1H, d, J=8.89 Hz), 7.53 (1H, dd, J=8.78 Hz, J=1.62 Hz), 7.76 (1H, d, J=1.38 Hz), 7.80 (1H, d, J=8.94 Hz), 8.02 (1H, d, J=8.72 Hz), 9.4 (1H, s), 10.43 (1H, s); 13 NMR (DMDO-d6): δ 20.47, 112.20, 112.99, 117.00, 118.66, 121.85, 127.83, 128.09, 128.38, 129.47, 130.00, 130.88, 131.65, 136.09, 136.51, 150.88, 156.62; MS (ESI) m/z283/285(M−H)−.

reactant | 1-chloro-6-(4-methoxy-2-methylphenyl)-2-naphthol | 1.41 mmol, 400 mg | ClC1=C(C=CC2=CC(=CC=C12)C1=C(C=C(C=C1)OC)C)O | C18H15ClO2
reactant | boron tribromide | 4.0 mmol, 1.0 M, 4.0 mL | B(Br)(Br)Br | BBr3
product | 1-Chloro-6-(4-hydroxy-2-methylphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=C(C=C(C=C1)O)C)O | C17H13ClO2
